### PR TITLE
[Merged by Bors] - feat: Sylow's first theorem for elementary `p`-groups

### PR DESCRIPTION
**Pull request by YaelDillies**
From PFR

---

Any suggestion for where to put this result?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/ZMod.lean [hunk 1]
```diff
@@ -114,3 +115,18 @@ theorem _root_.Submodule.toAddSubgroup_toZModSubmodule (S : Submodule (ZMod n) M
   rfl
 
 end AddSubgroup
+
+namespace ZModModule
+variable {p : ℕ} {G : Type*} [AddCommGroup G]
+
+/-- In an elementary abelian `p`-group, every finite subgroup `H` contains a further subgroup of
+cardinality between `k` and `pk`, if `k ≤ |H|`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Module/ZMod.lean:123]: When using code markup, I suggest:
```suggestion
cardinality between `k` and `p * k`, if `k ≤ |H|`. -/
```

File: Mathlib/Algebra/Module/ZMod.lean [hunk 2]
```diff
@@ -114,3 +115,18 @@ theorem _root_.Submodule.toAddSubgroup_toZModSubmodule (S : Submodule (ZMod n) M
...
+lemma exists_submodule_subset_card_le (hp : p.Prime) [Module (ZMod p) G] {k : ℕ}
+    (H : Submodule (ZMod p) G) (hk : k ≤ Nat.card H) (h'k : k ≠ 0) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Module/ZMod.lean:125]: Very minor suggestion:
```suggestion
lemma exists_submodule_subset_card_le (hp : p.Prime) [Module (ZMod p) G]
    (H : Submodule (ZMod p) G) {k : ℕ} (hk : k ≤ Nat.card H) (h'k : k ≠ 0) :
```

File: Mathlib/Algebra/Module/ZMod.lean [hunk 3]
```diff
@@ -114,3 +115,18 @@ theorem _root_.Submodule.toAddSubgroup_toZModSubmodule (S : Submodule (ZMod n) M
...
+    ∃ (H' : Submodule (ZMod p) G), Nat.card H' ≤ k ∧ k < p * Nat.card H' ∧ H' ≤ H := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Module/ZMod.lean:126]:
```suggestion
    ∃ H' : Submodule (ZMod p) G, Nat.card H' ≤ k ∧ k < p * Nat.card H' ∧ H' ≤ H := by
```
(Could phrase this with `Ico` as well; no strong preference)

**Review by Ruben-VandeVelde — APPROVED** [review]
Location seems acceptable.

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
